US05624943
Under the conditions of example 14 A, a solution of 1 g of 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-4-pentynoic acid methyl ester in 10 ml of methanol is hydrogenated in the presence of 100 mg of 10% palladium catalyst on activated carbon and worked up. The crude product is chromatographed on silica gel with hexane/0-50% ethyl acetate. 665 mg of 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-pentanoic acid methyl ester of melting point 92°-95° C. is obtained.

reactant | 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-4-pentynoic acid methyl ester | 1 g | COC(CCC#CC1=CC=C(C(=N1)CCC(=O)OC)O)=O | C15H17NO5
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium | 100 mg | [Pd] | Pd
product | 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-pentanoic acid methyl ester | 665 mg | COC(CCCCC1=CC=C(C(=N1)CCC(=O)OC)O)=O | C15H21NO5
